US04120690
Preparation of 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-methylaminothiazole
A reaction mixture containing 11.4 g (0.035 mole) of N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-4-bromoacetoacetamide, 150 ml of ethanol and 3.3 g (0.036 mole) of N-methylthiourea was refluxed for 4 hours. The reaction solution was poured into 300 ml of water and treated with excess aqueous sodium bicarbonate. The product was isolated and dried. There was obtained 9.5 g (87.2%) of white solid, m.p. 198°-200° (dec.). N.M.R. (CDCl3) ∂ 1.4 [C(CH3)3 ], 3.0 (CH3), 3.8 (CH2), 6.4 (hetero-aromatic).

reactant | N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-4-bromoacetoacetamide | 0.035 mole, 11.4 g | C(C)(C)(C)C1=NN=C(S1)NC(CC(=O)CBr)=O | C10H14BrN3O2S
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | N-methylthiourea | 0.036 mole, 3.3 g | CNC(=S)N | C2H6N2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 300 ml | O | H2O
product | 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-methylaminothiazole | 9.5 g, 87.2% | C(C)(C)(C)C1=NN=C(S1)NC(=O)CC=1N=C(SC1)NC | C12H17N5OS2
